US07476742B2
Preparation of ethyl [(1S)-5-(2-{2-[3-(acetylamino)phenyl]-5-methyl-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate
To a solution of DMAP (1.0 mg) and acetyl chloride (9.3 mg, 0.12 mmol) in 1 mL dichloromethane was added a solution of ethyl ((1S)-5-{2-[2-(3-aminophenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate (25 mg, 0.06 mmol) in dichloromethane (1 mL). Then, triethylamine (0.5 mL) was added and the reaction mixture was stirred for 16 h. The reaction mixture was concentrated under reduced pressure and redissolved in acetonitrile/methanol. The solution was filtered through a C8-Silica plug before preparative HPLC purification using 10 to 80% acetonitrile in water gradient to afford 15.3 mg (55.6%) of the desired product. 1H NMR (300 MHz/CDCl3) δ 7.97 (s, 1H), 7.70 (d, 2H), 7.49 (s, 1H), 7.37 (t, 1H), 7.03 (d, 1H), 6.76 (s, 1H), 6.69 (d, 1H), 4.11-4.22 (m, 4H), 3.48 (qr, 1H), 2.92 (t, 2H), 2.72-2.88 (m, 2H), 2.68 (dd, 1H), 2.27-2.40 (m, 5H), 2.16 (s, 3H), 1.64-1.76 (m, 1H), 1.24 (t, 3H). EI-LCMS(rel abundance), m/z 463.4 (MH+, 100%).

reactant | acetyl chloride | 0.12 mmol, 9.3 mg | C(C)(=O)Cl | C2H3ClO
reactant | ethyl ((1S)-5-{2-[2-(3-aminophenyl)-5-methyl-1,3-oxazol-4-yl]ethoxy}-2,3-dihydro-1H-inden-1-yl)acetate | 0.06 mmol, 25 mg | NC=1C=C(C=CC1)C=1OC(=C(N1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC)C | C25H28N2O4
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 1.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | ethyl [(1S)-5-(2-{2-[3-(acetylamino)phenyl]-5-methyl-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate | 15.3 mg, 55.6% | C(C)(=O)NC=1C=C(C=CC1)C=1OC(=C(N1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC)C | C27H30N2O5
